US05055482
Sodium nitrite (9.6 g) was warmed in concentrated sulfuric acid (40 ml) to form a homogeneous mixture. The solution was allowed to cool to room temperature and a solution of 2,6-dichloro-4-trifluoromethylaniline (described in European Patent Publication 23,100:30.0 g) in glacial acetic acid (230 ml) was added dropwise, with stirring and efficient external cooling to keep the temperature below 30° C. The reaction mixture was heated at 55°-60° C. for 45 minutes, allowed to cool to room temperature, and added dropwise to a stirred solution of ethyl 4-chloroacetoacetate 21.6 g) in glacial acetic acid (100 ml) and water (200 ml). Sodium acetate (122 g) and a further 200 ml of water were added. The resultant precipitate was filtered and the filter cake was washed thoroughly with water, sucked dry and dried in a vacuum desiccator to give ethyl 2-(2,6-dichloro-4-trifluoromethylphenylazo)-4-chloroacetoacetate as a light brow solid (52.7 g), m.p. 62°-67° C.

reactant | Sodium nitrite | 9.6 g | N(=O)[O-].[Na+]
reactant | 2,6-dichloro-4-trifluoromethylaniline | 30.0 g | ClC1=C(N)C(=CC(=C1)C(F)(F)F)Cl | C7H4Cl2F3N
reactant | ethyl 4-chloroacetoacetate | 21.6 g | ClCC(CC(=O)OCC)=O | C6H9ClO3
reactant | Sodium acetate | 122 g | C(C)(=O)[O-].[Na+]
solvent | sulfuric acid | 40 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 230 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | water | 200 ml | O | H2O
solvent | water | 200 ml | O | H2O
product | ethyl 2-(2,6-dichloro-4-trifluoromethylphenylazo)-4-chloroacetoacetate | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N=NC(C(=O)OCC)C(=O)CCl | C13H10Cl3F3N2O3
